US06884801B1
2-Amino-N-butyl-5-fluorobenzamide (prepared from butylamine and 6-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N-butyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-5-fluorobenzamide, isolated as the hydrochloride salt.

reactant | 2-Amino-N-butyl-5-fluorobenzamide | NC1=C(C(=O)NCCCC)C=C(C=C1)F | C11H15FN2O
reactant | butylamine | C(CCC)N | C4H11N
reactant | 6-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | FC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4FNO3
product | N-butyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-5-fluorobenzamide | C(CCC)NC(C1=C(C=CC(=C1)F)NCC=1NCCN1)=O | C15H21FN4O
